US04971982
242 mg of 3,4-dihydro-2,2-dimethyl-4-(2-pyrimidinyl)-2H-1-benzopyran-6-carbonitrile were dissolved in 5 ml of dichloromethane at room temperature and 450 mg of m-chloroperbenzoic acid were added. After stirring overnight the mixture was washed with sodium bisulphite solution and sodium bicarbonate solution. The organic phase was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/ethanol/formic acid (40:4:1) for the elution. The product was obtained in the form of an oil which was dissolved in diethyl ether and washed with sodium bicarbonate solution. The organic phase was dried over sodium sulphate and evaporated. The resulting oil was crystallized from t-butyl methyl ether to give 25 mg of 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyrimidine 1-oxide of melting point 98°-100° C.

reactant | 3,4-dihydro-2,2-dimethyl-4-(2-pyrimidinyl)-2H-1-benzopyran-6-carbonitrile | 242 mg | CC1(OC2=C(C(C1)C1=NC=CC=N1)C=C(C=C2)C#N)C | C16H15N3O
reactant | m-chloroperbenzoic acid | 450 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyrimidine 1-oxide | 25 mg | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)C2=[N+](C=CC=N2)[O-])C1 | C16H15N3O2
